US07750040B2
To a solution of rac-(1aS,5aR)-2-ethyl-1,1-dimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid (5.9 g, 25.0 mmol) in diethyl ether (420 mL) MeLi (30 mL, 1.6 M solution in diethyl ether) is added at rt. The mixture is stirred at rt for 30 min before another portion of MeLi (6 mL) is added. Stirring is continued at rt for 1 h. The mixture is poured onto ice/water, the organic layer is separated, washed with 1 N aq. NaOH and brine, dried over Na2SO4, and filtered. The solvent is removed in vacuo and the crude product is purified by CC on silica gel eluting with hexane:EA 9:1 to give rac-1-((1aS,5aR)-2-ethyl-1,1-dimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone (3.7 g) as a pale yellow oil; LC-MS: tR=1.07 min, [M+1]+=235.31, 1H NMR (CDCl3): δ 2.98 (dd, J=5.9, 18.8 HZ, 1H), 2.83-2.70 (m, 3H), 2.40 (s, 3H), 1.94-1.87 (m, 2H), 1.27 (t, J=7.6 Hz, 3H), 1.12 (s, 3H), 0.71 (s, 3H).

reactant | rac-(1aS,5aR)-2-ethyl-1,1-dimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | 25.0 mmol, 5.9 g | C(C)C=1SC(=C2CC3C(C12)C3(C)C)C(=O)O | C13H16O2S
reactant | MeLi | 6 mL | [Li]C
solvent | diethyl ether | 1.6 M, 420 mL | C(C)OCC | C4H10O
product | rac-1-((1aS,5aR)-2-ethyl-1,1-dimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone | 3.7 g | C(C)C=1SC(=C2C[C@@H]3[C@H](C12)C3(C)C)C(C)=O | C14H18OS
